US04388317
Reaction of 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethyl amine with 2-nitroamino-5-(5-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone gives 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(5-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone.

reactant | 2-(5-dimethylaminomethyl-2-furanylmethylthio)ethyl amine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-nitroamino-5-(5-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC(=C(C(N1)=O)CC1=NC=C(C=C1)CN(C)C)C | C14H18N6O3
product | 2-[2-(5-dimethylaminomethyl-2-furanylmethylthio)ethylamino]-5-(5-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC(=C(C(N1)=O)CC1=NC=C(C=C1)CN(C)C)C | C24H34N6O2S
